US08476297B2
Step 5: (R)-Benzo[c][1,2,5]oxadiazol-5-yl(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)methanone
To a solution of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (50 mg, 180 μmol) and diea (31 μL, 180 μmol) in DCM (1 mL) was added benzo[c][1,2,5]oxadiazole-5-carbonyl chloride (43 mg, 234 μmol). The resulting mixture was then stirred at RT for overnight. Then, the mixture was concentrated and the residue was dissolved in MeOH (1 mL). The solution mixture was then purified by preparative HPLC (0%-100% MeCN 0.1% TFA/H2O 0.1% TFA) to give a desired product, which was then dissolved in MeOH (1 mL). The solution was then washed through PL-HCO3 resin and the resin was then washed with MeOH (1 mL). The combined washings were concentrated and dried under vacuum to give the title compound as a white solid. MS (ESI, positive ion) m/z: 424 (M+H).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 180 μmol, 50 mg | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | diea | 180 μmol, 31 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzo[c][1,2,5]oxadiazole-5-carbonyl chloride | 234 μmol, 43 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-Benzo[c][1,2,5]oxadiazol-5-yl(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)methanone | N=1ON=C2C1C=CC(=C2)C(=O)N2[C@@H](C1=CC=CC=C1CC2)C2=CC=C(C=C2)C(F)(F)F | C23H16F3N3O2
